US07115611B2
In analogy to the procedures described in examples 8A] and 31B], 3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester was reacted with 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine (example 1N]) to give 3-{3-methyl-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenyl}-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | 3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=C(C=C1)O)C)=O | C12H16O3
reactant | 3-chloromethyl-2-methyl-6-(4-trifluoromethyl-phenyl)-pyridine | ClCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C14H11ClF3N
product | 3-{3-methyl-4-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=CC(=C(C=C1)OCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C26H26F3NO3
